US07012089B2
8-Chloro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 8-chloro-3-methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole (1.0 g, 3.64 mmole) in dichloroethane (200 mL) was added 1-chloroethyl chloroformate (2.0 mL, 18.35 mmole) and refluxed for 24 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo and replaced with methanol (200 mL) and refluxed for another 3 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo. The dark residue was dissolved in methylene chloride (200 mL) and washed with aqueous sodium hydroxide (1N, 150 mL), saturated sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, 1.5% to 3% methanol in dichloromethane) provided 0.70 g of the title compound as a white solid. 0.12 g of the above solid was further treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 226-228° C. MS (ES) m/z 261.09 ([M+H]+), MS (ES) m/z 302.12 ([M+ACN+H]+).

reactant | 8-chloro-3-methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 3.64 mmole, 1.0 g | ClC1=C2C3=C(N4C2=C(C=C1)CCN(CC4)C)CCC3 | C16H19ClN2
reactant | 1-chloroethyl chloroformate | 18.35 mmole, 2.0 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | 8-Chloro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 0.70 g | ClC1=C2C3=C(N4C2=C(C=C1)CCNCC4)CCC3 | C15H17ClN2
